US06350749B1
To a mixture of 5-(2-chlorophenyl)-1,3-cyclohexanedione (1.1 g), 1-amino-2-butyne hydrochloride (0.5 g), molecular sieves 4A (2 g) and tetrahydrofuran (20 ml) was added triethylamine (0.48 g), and the mixture was stirred at room temperature for 1 hour and then refluxed for 12 hours and cooled. Insoluble materials were filtered, and under reduced pressure, the solvent was evaporated. The residue was stirred for 4 hours at 220° C., to which were added ethyl acetate and sodium hydrogen carbonate solution. The organic layer was washed with water and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was subjected to silica gel column chromatography (EtOAc/hexane) to give crystals, which were recrystallized from ethyl acetate-hexane to give colorless crystals of 7-(2-chlorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (0.20 g)

reactant | 5-(2-chlorophenyl)-1,3-cyclohexanedione | 1.1 g | ClC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H11ClO2
reactant | 1-amino-2-butyne hydrochloride | 0.5 g | Cl.NCC#CC
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.48 g | C(C)N(CC)CC | C6H15N
product | 7-(2-chlorophenyl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | 0.20 g | ClC1=C(C=CC=C1)C1CC(C=2C(=CC=NC2C1)C)=O | C16H14ClNO
